US08476434B2
Synthesis of N-[2-Chloro-5-(2′-methylamino-[3,4′]bipyridinyl-2-yloxy)-phenyl]-2-(3-dimethylamino-pyrrolidin-1-yl)-5-trifluoromethyl-benzamide
N-[2-Chloro-5-(2′-methylamino-[3,4′]bipyridinyl-2-yloxy)-phenyl]-2-fluoro-5-trifluoromethyl-benzamide (65 mg, 0.13 mmol) and dimethyl-pyrrolidin-3-yl-amine (22 mg, 0.189 mmol) were dissolved in 0.3 mL DMSO. The solution was heated to 80° C. and stirred for 22 h. The reaction was then cooled to RT, quenched with water, extracted into EtOAc, washed twice with water, once with brine, dried over Mg2SO4, filtered, and concentrated in vacuo to yield a crude mixture that was purified by preparative TLC (10% MeOH/CH2Cl2) to give the title compound as an off-white solid. MS m/z (M+H)+=611; Calc'd 611.06 for C31H30ClF3N6O2.

reactant | N-[2-Chloro-5-(2′-methylamino-[3,4′]bipyridinyl-2-yloxy)-phenyl]-2-fluoro-5-trifluoromethyl-benzamide | 0.13 mmol, 65 mg | ClC1=C(C=C(C=C1)OC1=NC=CC=C1C1=CC(=NC=C1)NC)NC(C1=C(C=CC(=C1)C(F)(F)F)F)=O | C25H17ClF4N4O2
reactant | dimethyl-pyrrolidin-3-yl-amine | 0.189 mmol, 22 mg | CN(C1CNCC1)C | C6H14N2
solvent | DMSO | 0.3 mL | CS(=O)C | C2H6OS
product | N-[2-Chloro-5-(2′-methylamino-[3,4′]bipyridinyl-2-yloxy)-phenyl]-2-(3-dimethylamino-pyrrolidin-1-yl)-5-trifluoromethyl-benzamide | ClC1=C(C=C(C=C1)OC1=NC=CC=C1C1=CC(=NC=C1)NC)NC(C1=C(C=CC(=C1)C(F)(F)F)N1CC(CC1)N(C)C)=O | C31H30ClF3N6O2
